US08865623B2
A mixture of 4-(2-ethyl-5-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (100 mg, 0.34 mmol), 2-fluoro-6-trifluoromethylpyridine (68 mg, 0.41 mmol), and potassium carbonate (110 mg, 0.69 mmol) in N,N-dimethylformamide (3 ml) is heated to 140° C. under microwave irradiation for 40 minutes. The mixture is cooled to room temperature, poured into 2M aqueous hydrochloric acid, diluted with dichloromethane and filtered through a phase separation cartridge. The organic phase is collected. The solvent is evaporated under reduced pressure and the residue is purified by column chromatography on silica gel to give 4-[2-ethyl-5-(6-trifluoromethylpyridin-2-yloxy)phenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(2-ethyl-5-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.34 mmol, 100 mg | C(C)C1=C(C=C(C=C1)O)C1C(C(OC(C1=O)(C)C)(C)C)=O | C17H22O4
reactant | 2-fluoro-6-trifluoromethylpyridine | 0.41 mmol, 68 mg | FC1=NC(=CC=C1)C(F)(F)F | C6H3F4N
reactant | potassium carbonate | 0.69 mmol, 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[2-ethyl-5-(6-trifluoromethylpyridin-2-yloxy)phenyl]-2,2,6,6-tetramethylpyran-3,5-dione | C(C)C1=C(C=C(C=C1)OC1=NC(=CC=C1)C(F)(F)F)C1C(C(OC(C1=O)(C)C)(C)C)=O | C23H24F3NO4
